US07576215B2
N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-1H-IMIDAZOLE-1-CARBOXIMIDAMIDE
To imidazole (65 mg, 9.760 mmol) in CH2Cl2 (10 ml) at room temperature under nitrogen atmosphere bromonitrile (500 mg, 4.71 mmol) was added. The resulting mixture was heated at reflux for 1 hr. Cooling to room temperature, filtration and concentration in vacuo to a volume of approximately 10 ml. The resulting pale liquor was let stand at 0° C. for 15 hrs. Filtration afforded a pale white powder for C-(di-imidazol-1-yl)-methyleneamine (210 mg, 28% yield). To [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone (132 mg, 3.389 mmol), aniline (213 mg, 2.347 mmol) and C-(di-imidazol-1-yl)-methyleneamine (420 mg, 2.608 mmol) in THF (20 mg) was heated at reflux for 2.5 hrs. Concentration in vacuo and RP-HPLC (gradient water:acetonitrile) afforded the title compound as a yellow powder (20 mg, 14% yield). MS (ESI) m/z 486.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | 3.389 mmol, 132 mg | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | aniline | 2.347 mmol, 213 mg | NC1=CC=CC=C1 | C6H7N
reactant | C-(di-imidazol-1-yl)-methyleneamine | 2.608 mmol, 420 mg | C1=CN(C=N1)C(=N)N2C=CN=C2 | C7H7N5
solvent | THF | 20 mg | C1CCOC1 | C4H8O
product | N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-1H-IMIDAZOLE-1-CARBOXIMIDAMIDE | 20 mg, 14% yield | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(=N)N1C=NC=C1)C(F)(F)F | C27H18F3N5O
